US08242280B2
3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (5.0 g, 9.91 mmol), commercial 5-bromo-pyridine-3-carbaldehyde 1.84 g, 9.91 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (405 mg, 0.495 mmol) were combined in a vial under nitrogen and dissolved in acetonitrile (25 mL) and tetrahydrofuran (25 mL). Saturated sodium bicarbonate (25 mL) was added and the system was purged with nitrogen gas. The reaction mixture was capped and heated for 15 h at 80° C. The cooled mixture was diluted with ethyl acetate and washed with brine. The combined organic layers were dried over sodium sulfate and purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridine-3-carbaldehyde (2.66 g, 55.7%). MS: m/z 484 (M+H+).

reactant | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 9.91 mmol, 5.0 g | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 5-bromo-pyridine-3-carbaldehyde | 9.91 mmol, 1.84 g | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridine-3-carbaldehyde | 2.66 g, 55.7% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(C=NC2)C=O)S(=O)(=O)C2=CC=C(C=C2)C | C27H21N3O4S
